US08835494B2
To a solution of N-(3-acetylamino-2-hydroxypropyl)acetamide (synthesized as described in J. Org. Chem., 2000, 65(4), 1200, which is incorporated herein by reference in its entirety) (741 mg, 4.25 mmol) and 1H-imidazole (579 mg, 8.51 mmol) in dry DMF (17 mL), a solution of tert-butylchlorodimethylsilane (962 mg, 6.38 mmol) in dry DMF (8 mL) was added dropwise, and the reaction was stirred at r.t. overnight. The reaction was portioned between H2O/Et2O, the phases were separated and the aqueous layer was washed twice with Et2O and three times with EtOAc. All the organics were combined, dried over Na2SO4, filtered and concentrated, affording N-[3-acetylamino-2-(tert-butyldimethylsilanyloxy) propyl]acetamide (1140 mg, 3.95 mmol, 93% yield) as off-white solid.

reactant | N-(3-acetylamino-2-hydroxypropyl)acetamide | C(C)(=O)NCC(CNC(C)=O)O | C7H14N2O3
reactant | 1H-imidazole | 8.51 mmol, 579 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butylchlorodimethylsilane | 6.38 mmol, 962 mg | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | H2O Et2O | O.CCOCC
solvent | DMF | 17 mL | CN(C)C=O | C3H7NO
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | N-[3-acetylamino-2-(tert-butyldimethylsilanyloxy) propyl]acetamide | 3.95 mmol, 1140 mg, 93% yield | C(C)(=O)NCC(CNC(C)=O)O[Si](C)(C)C(C)(C)C | C13H28N2O3Si
